data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1OC.[Pd]", "products": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1OC"}, {"reactants": "COc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1OC", "products": "COc1ccc2c(c1OC)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1ccc2c(c1OC)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1ccc2c(c1OC)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C(=O)C2C3CCC2C3)cc1Cl", "products": "COc1ccc([C]([O])C2C3CCC2C3)cc1Cl"}, {"reactants": "COc1ccc([C]([O])C2C3CCC2C3)cc1Cl", "products": "COc1ccc(C([O])=CC2C[CH]CC2)cc1Cl"}, {"reactants": "COc1ccc(C([O])=CC2C[CH]CC2)cc1Cl", "products": "COc1ccc(C(O)=CC2C=CCC2)cc1Cl"}, {"reactants": "COc1ccc(C(O)=CC2C=CCC2)cc1Cl", "products": "COc1ccc(C(=O)CC2C=CCC2)cc1Cl"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CCl)c([Si](C)(C)C)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C", "products": "COc1c2c(cc([Si](C)(C)CCl)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [], "steps": [{"reactants": "CCOC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "CCOC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "CCOC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "CCOC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "CCOC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(OCC)[C@H](C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(OCC)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(OCC)[C@H](C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(OCC)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "CCOC1[C@H](C)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(Cl)c(C(=O)C2C3CCC2C3)c1", "products": "Cc1ccc(Cl)c([C]([O])C2C3CCC2C3)c1"}, {"reactants": "Cc1ccc(Cl)c([C]([O])C2C3CCC2C3)c1", "products": "Cc1ccc(Cl)c(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "Cc1ccc(Cl)c(C([O])=CC2C[CH]CC2)c1", "products": "Cc1ccc(Cl)c(C(O)=CC2C=CCC2)c1"}, {"reactants": "Cc1ccc(Cl)c(C(O)=CC2C=CCC2)c1", "products": "Cc1ccc(Cl)c(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2C(Cl)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CCC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CCC1(Cl)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(Cl)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CCC1(Cl)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccc(Cl)cc1", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(Cl)cc1"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(Cl)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccc(Cl)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccc(Cl)cc1", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccc(Cl)cc1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "CCc1cc(OC)ccc1NN=CCc1ccccc1.Cl[Zn]Cl", "products": "CCc1cc(OC)ccc1N[N+](=CCc1ccccc1)[Zn-]([Cl])[Cl]"}, {"reactants": "CCc1cc(OC)ccc1N[N+](=CCc1ccccc1)[Zn-]([Cl])[Cl]", "products": "CCc1cc(OC)ccc1N[N](C=Cc1ccccc1)[Zn-]([Cl])[Cl].[H+]"}, {"reactants": "CCc1cc(OC)ccc1N[N](C=Cc1ccccc1)[Zn-]([Cl])[Cl]", "products": "CCc1cccc(C(C=[N][Zn-]([Cl])[Cl])C2C=C(OC)C=CC2=N)c1"}, {"reactants": "CCc1cccc(C(C=[N][Zn-]([Cl])[Cl])C2C=C(OC)C=CC2=N)c1", "products": "CCc1cc(OC)cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N"}, {"reactants": "CCc1cc(OC)cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N", "products": "CCc1cc(OC)cc2c1[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "CCc1cc(OC)cc2c1[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "CCc1cc(OC)cc2c1NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "CCc1cc(OC)cc2c1NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "CCc1cc(OC)cc2c1[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "CCc1cc(OC)cc2c1[NH+]=CC2c1ccccc1", "products": "CCc1cc(OC)cc2c(-c3ccccc3)c[nH]c12.[H+]"}]}
